US07244726B2
6-(1-(2-(2-Methylquinolin-5-yloxy)ethyl)piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one (D33)
A mixture of 6-(4-piperidinylmethyl)-4H-benzo[1,4]oxazin-3-one hydrochloride (0.10 g, 0.35 mmol), 5-(2-bromoethoxy)-2-methylquinoline (0.11 g, 0.42 mmol), diisopropylethylamine (1 mL) and isopropanol (10 mL) was heated at reflux under argon for 48 h, cooled, then evaporated in vacuo. The residue was partitioned between saturated aqueous NaHCO3 (50 mL) and dichloromethane (3×30 mL) and the combined organic extracts were dried (Na2SO4) and evaporated in vacuo. The resulting oil was purified by chromatography on silica eluting with 50% ethyl acetate-hexane followed by 0–25% methanol-ethyl acetate gradient elution, to give the title compound (0.04 g, 26%) as an oil.

reactant | 6-(4-piperidinylmethyl)-4H-benzo[1,4]oxazin-3-one hydrochloride | 0.35 mmol, 0.10 g | Cl.N1CCC(CC1)CC=1C=CC2=C(NC(CO2)=O)C1
reactant | 5-(2-bromoethoxy)-2-methylquinoline | 0.42 mmol, 0.11 g | BrCCOC1=C2C=CC(=NC2=CC=C1)C | C12H12BrNO
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | isopropanol | 10 mL | C(C)(C)O | C3H8O
product | 6-(1-(2-(2-Methylquinolin-5-yloxy)ethyl)piperidin-4-ylmethyl)-4H-benzo[1,4]oxazin-3-one | 0.04 g, 26% | CC1=NC2=CC=CC(=C2C=C1)OCCN1CCC(CC1)CC=1C=CC2=C(NC(CO2)=O)C1 | C26H29N3O3
